US07691882B2
3-(3-(4-(4-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (5.00 mL) solution of (4-(4-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride (130 mg, 0.447 mmol) described in Manufacturing Example 43-1-5 and 3-ethynyl-pyridin-2,6-diamine (30.0 mg, 0.226 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (126 μL, 0.903 mmol) at room temperature, which was stirred for 1 hour at room temperature. Water was added to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound (37.4 mg, 42.7%).

reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | (4-(4-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 0.447 mmol, 130 mg | CC1=CC(=NC=C1)OCC1=CC=C(C=C1)CC(=NO)Cl | C15H15ClN2O2
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.226 mmol, 30.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.903 mmol, 126 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-(4-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 37.4 mg, 42.7% | CC1=CC(=NC=C1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C22H21N5O2
